US04167638
A. 8-Amino-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinoline.
Reduction of the methiodide in aqueous solution was done with sodium borohydride. A 97% yield of dark red crystals of 6-methoxy-1-methyl-8-nitro-1,2-dihydroquinoline resulted. Recrystallization from a mixture of ether and hexane gave the pure compound which melted 56°-61° , resolidified and melted again at 174°-180°.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 6-methoxy-1-methyl-8-nitro-1,2-dihydroquinoline | COC=1C=C2C=CCN(C2=C(C1)[N+](=O)[O-])C | C11H12N2O3
product | 8-Amino-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinoline | 97% yield | NC=1C=C(C=C2CCCN(C12)C)OC | C11H16N2O
